US04117019
A mixture of 3,200 parts of concentrated sulfuric acid (98% strength by weight), 400 parts of water and 1,800 parts of 85 per cent strength by weight phosphoric acid is circulated in a reactor by pumping with a centrifugal pump. A solution of 1,680 parts of o-xylyl chloride and 4,680 parts of benzene is added in the course of 31/2 hours at from 75° to 77° C; an emulsion forms. A part of the emulsion is fed continuously from an overflow into a receiver. The inorganic phase is returned to the circulation system and the organic phase is distilled. 2,023 parts (93.6% of theory) of o-benzyltoluene boiling at 98° C at 0.2 mm Hg are isolated.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 93.6% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
